Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.03970786071
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1],4.56410291296
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.88942398635
[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-5.6520354830900015
[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.96695366008
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C@@:2]1([H:3])[O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.46641569938
[H:1][O:2][C:3][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.72093748187
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:6][H:7],2.52417035661
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.97244246819
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-2.96231599951
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.18874139839
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.12370977871
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8]>>[H:1][C:2]1[O:3][C:4][O:5][C:6]1([H:7])[H:8],-4.23594334594
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.4445825588800005
[C:5][H:6].[O:1]=[C:2]([H:3])/[C:4]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]([C:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-5.8906660548300005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.28072512809
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.90761272405
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:7]([H:8])([H:9])=[C:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6],0.94399761631
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],6.469753753790001
[H:1][C:2](=[C:3]=[C:4]1[C:5][C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.67253998556
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.45472998106
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],1.8796239595
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],-6.13576414255
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3][C:11]([H:12])([H:13])[H:14],6.46992857
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:9],4.28051188782
[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:4]#[C:3]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.81730705628
[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.91708916656
